US05025025
To a solution of 3.27 g (7 mmol) of methyl 8-(p-chlorophenylsulfonamido)-4-[3-(3-pyridyl)propyl]-oct-2-enoate in 32 mL methanol, 0.446 g (1.87 mmol) cobalt (II) chloride hexahydrate is added. The solution is cooled in an ice bath and 0.573 g (15 mmol) sodium borohydride is added in small portions. Vigorous gas evolution and formation of a black precipitate is observed during the addition of sodium borohydride. After completion of the addition, the ice bath is removed and the mixture stirred at room temperature for 1 hour. The black precipitate is filtered off and washed with methanol. The combined filtrate is evaporated and the residue suspended in a mixture of 30 mL methylene chloride and 150 mL ether. The organic layer is washed with water. The aqueous phase is extracted with ether (2×50 mL). The combined organic extract is dried (MgSO4), filtered and the solvent evaporated. The residue is subjected to flash chromatography on silica using 3:2 EtOAc, hexane as the eluent to give methyl 8-(p-chlorophenylsulfonamido)-4-[3-(3-pyridyl)propyl]-octanoate, m.p. 81-82°.

reactant | methyl 8-(p-chlorophenylsulfonamido)-4-[3-(3-pyridyl)propyl]-oct-2-enoate | 7 mmol, 3.27 g | ClC1=CC=C(C=C1)S(=O)(=O)NCCCCC(C=CC(=O)OC)CCCC=1C=NC=CC1 | C23H29ClN2O4S
reactant | sodium borohydride | 15 mmol, 0.573 g | [BH4-].[Na+]
solvent | methanol | 32 mL | CO | CH4O
catalyst | cobalt (II) chloride hexahydrate | 1.87 mmol, 0.446 g | O.O.O.O.O.O.[Co](Cl)Cl
product | methyl 8-(p-chlorophenylsulfonamido)-4-[3-(3-pyridyl)propyl]-octanoate | ClC1=CC=C(C=C1)S(=O)(=O)NCCCCC(CCC(=O)OC)CCCC=1C=NC=CC1 | C23H31ClN2O4S
